US05869728
123 g (0.5 mol) of 3,3,4,4,5,5,6,6,6-nonafluorohexene and 76 g (0.5 mol) of trichlorosilane together with 0.34 g of CPC 072 (Pt(0)-divinyltetramethyldisiloxane in xylene; concentration Pt:3,3,4,4,5,5,6,6,6-nonafluorohexene=1:20,000) are charged to a 250 ml laboratory steel autoclave. The autoclave is closed and heated to 140° C. in an oil bath over 70 minutes. The exothermic reaction begins after about 8 minutes, the reaction mixture rising to 165° C. It is subsequently cooled, the reactor is emptied, and short-path distillation gives 176 g (0.46 mol) of 3,3,4,4,5,5,6,6,6-nonafluorohexyltrichlorosilane (yield: 90%, purity: >98 area % GC-TCD).

reactant | 3,3,4,4,5,5,6,6,6-nonafluorohexene | 0.5 mol, 123 g | FC(C=C)(C(C(C(F)(F)F)(F)F)(F)F)F | C6H3F9
reactant | trichlorosilane | 0.5 mol, 76 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3,3,4,4,5,5,6,6,6-nonafluorohexyltrichlorosilane | 0.46 mol, 176 g, yield: 90% | FC(CC[Si](Cl)(Cl)Cl)(C(C(C(F)(F)F)(F)F)(F)F)F | C6H4Cl3F9Si
